US06552067B2
To a solution of methyl 4-iodobenzoate (20 g, 76 mmol), propargyl alcohol (5.55 g, 99.0 mmol) and triethylamine (20 mL) in acetonitrile (200 mL) was added dichlorobis(triphenylphosphine)palladium(II) (1.55 g, 2.21 mmol), followed by Cul (454 mg, 2.38 mmol). The reaction mixture was stirred at room temperature for 24 h. Water was added and the aqueous solution was washed with EtOAc (3×). The organic solutions were combined, dried (MgSO4), filtered and concentrated. Purification by medium pressure chromatography (9:1 hexanes:EtOAc to 4:1 hexanes:EtOAc) provided 4-(3-hydroxy-prop-1-ynyl)-benzoic acid methyl ester (12.65 g).

reactant | methyl 4-iodobenzoate | 76 mmol, 20 g | IC1=CC=C(C(=O)OC)C=C1 | C8H7IO2
reactant | propargyl alcohol | 99.0 mmol, 5.55 g | C(C#C)O | C3H4O
reactant | triethylamine | 20 mL | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 2.21 mmol, 1.55 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(3-hydroxy-prop-1-ynyl)-benzoic acid methyl ester | 12.65 g | COC(C1=CC=C(C=C1)C#CCO)=O | C11H10O3
